US05112998
In 10 ml of dimethyl carbonate was dissolved 350 mg of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α-(tert-butyldimethylsilyl)oxy-3β-(N,N-dimethylcarbamoyl)oxypregn-6-en-5α-ol, followed by addition of one drop of concentrated sulfuric acid. The mixture was stirred in an atmosphere of argon gas under ice-cooling for 1 hour. The reaction mixture was then worked up in the same manner as Example 132 to give 95 mg of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α -(tert-butyldimethylsilyl)oxy-3β-(N,N-dimethylcarbamoyl)oxy-7α-(methoxycarbonyl)oxypregn-5-ene showing the following physical properties.

reactant | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α-(tert-butyldimethylsilyl)oxy-3β-(N,N-dimethylcarbamoyl)oxypregn-6-en-5α-ol | 350 mg | CC1(COC(OC1)C(C)[C@H]1CC[C@H]2[C@@H]3C=C[C@]4(C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O[Si](C)(C)C(C)(C)C)OC(N(C)C)=O)O)C | C36H63NO6Si
reactant | dimethyl carbonate | 10 ml | C(OC)(OC)=O | C3H6O3
catalyst | sulfuric acid | one drop | S(O)(O)(=O)=O | H2O4S
product | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α -(tert-butyldimethylsilyl)oxy-3β-(N,N-dimethylcarbamoyl)oxy-7α-(methoxycarbonyl)oxypregn-5-ene | 95 mg | CC1(COC(OC1)C(C)[C@H]1CC[C@H]2[C@@H]3[C@@H](C=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O[Si](C)(C)C(C)(C)C)OC(N(C)C)=O)OC(=O)OC)C | C38H65NO8Si
